US07932270B2
To a mixture of 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyrrolidin-2-ylmethyl)nicotinamide hydrochloride (95 mg, 0.2 mmol), 4-(tert-butoxycarbonylamino)butanoic acid (61 mg, 0.3 mmol), HOBT (41 mg, 0.3 mmol), and HBTU (114 mg, 0.3 mmol) were added DMF (1.0 mL) and DIEA (0.1 mL, 0.6 mmol). The reaction mixture was stirred at r.t. for 1 h. LC/MS indicated the reaction was complete. The reaction mixture was then filtered and the filtrate was purified on RP-HPLC using a mixture of acetonitrile and water to give tert-butyl 4-(2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate (81.2 mg, 65%). LRMS (M+H+) m/z 629.2.

reactant | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyrrolidin-2-ylmethyl)nicotinamide hydrochloride | 0.2 mmol, 95 mg | Cl.C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NCC2NCCC2)C=C1)NCCC1=CC(=CC=C1)F
reactant | 4-(tert-butoxycarbonylamino)butanoic acid | 0.3 mmol, 61 mg | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | HOBT | 0.3 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.6 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate | 81.2 mg, 65% | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NCC2N(CCC2)C(CCCNC(OC(C)(C)C)=O)=O)C=C1)NCCC1=CC(=CC=C1)F | C35H41FN6O4
